US05665756
Cyclopropyl-[4-(2-phenyl-1-imidazolyl)phenyl]methanone O-(2-aminoethyl)oxime dihydrochloride
A mixture of cyclopropyl-[4-(2-phenyl-1-imidazolyl)phenyl]methanone (2.6 g), aminoethylhydroxylamine dihydrochloride (1.95 g), and 3 equivalents of pyridine, in absolute ethanol (30 ml) was heated under reflux, under nitrogen, with stirring, overnight. The reaction mixture was evaporated, the residue was taken up in ethyl acetate and washed with a 10% sodium hydroxide solution. The organic extracts were evaporated and the residue purified by high performance liquid chromatography (silica gel, 185:14:1 dichloromethane/methanol/ammonium hydroxide). The appropriate fractions were collected and concentrated. The residue was taken up in ethanol and treated with ethereal hydrogen chloride. The mixture was evaporated. The residue was recrystallized from ethanol/ether to give 3.06 g (80.9%) of product, mp >220° C. (dec).

reactant | cyclopropyl-[4-(2-phenyl-1-imidazolyl)phenyl]methanone | 2.6 g | C1(CC1)C(=O)C1=CC=C(C=C1)N1C(=NC=C1)C1=CC=CC=C1 | C19H16N2O
reactant | aminoethylhydroxylamine dihydrochloride | 1.95 g | Cl.Cl.NCCNO
reactant | pyridine | 3 equivalents | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Cyclopropyl-[4-(2-phenyl-1-imidazolyl)phenyl]methanone O-(2-aminoethyl)oxime dihydrochloride | 3.06 g, 80.9% | Cl.Cl.NCCON=C(C1=CC=C(C=C1)N1C(=NC=C1)C1=CC=CC=C1)C1CC1 | InChI=1S/C21H22N4O.2ClH/c22-12-15-26-24-20(16-6-7-16)17-8-10-19(11-9-17)25-14-13-23-21(25)18-4-2-1-3-5-18;;/h1-5,8-11,13-14,16H,6-7,12,15,22H2;2*1H
